US07687664B2
Methyl (4′-methoxy-3′-trifluoromethanesulfonyloxybiphenyl-3-yl)acetate
492 mg of Methyl (3′-hydroxy-4′-methoxybiphenyl-3-yl)acetate was dissolved in 5 ml of pyridine, 0.4 ml of trifluoromethanesulfonic anhydride was added thereto, and the mixture was stirred at room temperature for 3 days. The reaction mixture was diluted with ethyl acetate and washed with 1N hydrochloric acid. The organic layer was dried over anhydrous magnesium sulfate and then filtered, and the filtrate was concentrated to give 697 mg of the title compound.

reactant | Methyl (3′-hydroxy-4′-methoxybiphenyl-3-yl)acetate | 492 mg | OC=1C=C(C=CC1OC)C1=CC(=CC=C1)CC(=O)OC | C16H16O4
reactant | trifluoromethanesulfonic anhydride | 0.4 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl (4′-methoxy-3′-trifluoromethanesulfonyloxybiphenyl-3-yl)acetate | 697 mg | COC1=C(C=C(C=C1)C1=CC(=CC=C1)CC(=O)OC)OS(=O)(=O)C(F)(F)F | C17H15F3O6S
